US06642389B2
d] 2Z-Ethoxy-3-{2-methyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-acrylic acid
To a solution of 0.40 g of 2Z-ethoxy-3-{2-methyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-acrylic acid ethyl ester in 10 ml of THF, 5 ml of MeOH and 5 ml of water was added at 22° C. 0.116 g of LiOHxH2O and stirring was continued for 2 d. The yellow solution was evaporated, the residue dissolved in 20 ml of water and the pH was adjusted to 5 using ca. 2.6 ml of 1 N aqueous HCl. The suspension was filtered, the residue washed with water and dried to give 0.34 g (91%) of the title compound as a white solid.

reactant | 2Z-ethoxy-3-{2-methyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-acrylic acid ethyl ester | 0.40 g | C(C)OC(/C(=C/C1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)C)/OCC)=O | C26H29NO5
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | MeOH | 5 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 2Z-Ethoxy-3-{2-methyl-4-[2-(5-methyl-2-phenyl-oxazol-4-yl)-ethoxy]-phenyl}-acrylic acid | 0.34 g, 91% | C(C)O\C(\C(=O)O)=C/C1=C(C=C(C=C1)OCCC=1N=C(OC1C)C1=CC=CC=C1)C | C24H25NO5
